US07592373B2
7.2.a. isopropyl(6-nitroquinolin-2-yl)amine
2.55 mL (29.96 mmol) of isopropylamine is added to a solution of 1.25 g (5.99 mmol) of 2-chloro-6-nitroquinoline in 50 mL of ethanol and the mixture is stirred for 18 hours at ambient temperature. Then the reaction mixture is heated to 65° C. in the microwave for 2 hours. The reaction mixture is then evaporated down, the residue is taken up in 20 mL of DMF, combined with 2.55 mL (29.96 mmol) of isopropylamine, and stirred for 18 hours at ambient temperature. The reaction mixture is evaporated down and the residue is combined with ethyl acetate and water. The organic phase is extracted twice with water. The aqueous phases are extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulfate and the solvent is then removed. Yield: 0.75 g (54.1% of theory); C12H13N3O2 (M=221.25); calc.: molecular ion peak (M+H)+: 232; found: molecular ion peak (M+H)+: 232; Rf value: 0.48 (silica gel, petroleum ether/ethyl acetate (2:1)).

reactant | isopropylamine | 29.96 mmol, 2.55 mL | C(C)(C)N | C3H9N
reactant | 2-chloro-6-nitroquinoline | 5.99 mmol, 1.25 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | isopropylamine | 29.96 mmol, 2.55 mL | C(C)(C)N | C3H9N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | isopropyl(6-nitroquinolin-2-yl)amine | C(C)(C)NC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C12H13N3O2
